US08168793B2
2-(5-(3,4-Dimethoxy-5-nitrophenyl)-1H-imidazol-1-yl)-5-(trifluoromethyl)pyridine 1-oxide (0.41 g, 1 mmol) was heated at 140° C. in 48% aqueous hydrogen bromide (6 mL) for 2.5 hours. The dark homogeneous solution was cooled to room temperature and volatiles were removed by evaporation to leave a pale brown crystalline solid that was dried over P2O5 under vacuum. Trituration of the resulting solid with diethyl ether gave 2-(5-(3,4-dihydroxy-5-nitrophenyl)-1H-imidazol-1-yl)-5-(trifluoromethyl)pyridine 1-oxide as a yellow crystalline solid, 0.27 g (71%).

reactant | 2-(5-(3,4-Dimethoxy-5-nitrophenyl)-1H-imidazol-1-yl)-5-(trifluoromethyl)pyridine 1-oxide | 1 mmol, 0.41 g | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C1=CN=CN1C1=[N+](C=C(C=C1)C(F)(F)F)[O-] | C17H13F3N4O5
solvent | hydrogen bromide | 6 mL | Br | BrH
product | 2-(5-(3,4-dihydroxy-5-nitrophenyl)-1H-imidazol-1-yl)-5-(trifluoromethyl)pyridine 1-oxide | OC=1C=C(C=C(C1O)[N+](=O)[O-])C1=CN=CN1C1=[N+](C=C(C=C1)C(F)(F)F)[O-] | C15H9F3N4O5
